US07956216B2
74A: 3-Styryl-benzoic acid methyl ester
Methyl 3-bromobenzoate (458 mg, 2 mmol), 1-styreneboronic acid pinacoyl ester (484 mg, 2.1 mmol), Na2CO3 (222 mg, 2.1 mmol), tetrakis(triphenylphosphino)palladium (116 mg, 0.1 mmol), water (4 mL) and 1,2-dimethoxyethane (6 mL) were stirred with reflux conditions for one hour, under nitrogen. The reaction mixture was diluted with water and was extracted three times with EtOAc. The organic layers were combined, washed with water and then brine, dried over MgSO4 and concentrated. The product was purified by trituration with Et2O. White crystals were obtained (393 mg, 82%). NMR 1H (ppm, CDCl3): 8.19 (t, J4=1.6 Hz, 1H), 7.91 (dt, J3=7.7 Hz, J4=1.3 Hz, 1H), 7.67 (d, J3=7.8 Hz, 1H), 7.52 (d, J3=7.3 Hz, 2H), 7.42 (t, J3=7.9 Hz, 1H), 7.36 (t, J3=7.4 Hz, 2H), 7.30-7.26 (m, 1H), 7.19 (d, J3=16.3 Hz, 1H), 7.11 (d, J3=16.4 Hz, 1H), 3.06 (s, 3H).

reactant | Methyl 3-bromobenzoate | 2 mmol, 458 mg | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | 1-styreneboronic acid | 2.1 mmol, 484 mg | C=CC1(CC=CC=C1)B(O)O | C8H11BO2
reactant | Na2CO3 | 2.1 mmol, 222 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 6 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphino)palladium | 0.1 mmol, 116 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 4 mL | O | H2O
product | 3-Styryl-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=CC1=CC=CC=C1)=O | C16H14O2
